US09024027B2
Step 1: Preparation of (S)-4-(2-(2-bromoacetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (34)
(S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (500 mg, 1.2 mmol) is dissolved in CH2Cl2 (15 ml), DMAP (180 mg, 1.8 mmol) and 2-bromoacetyl chloride (243 mg, 1.55 mmol) are added. The mixture is stirred at RT for 2 hours, then is diluted with CH2Cl2 (50 ml) and quenched with HCl 1N aqueous solution (50 ml). The two phases are separated, and the organic phase is washed with HCl 1N aqueous solution (2×50 ml), dried over Na2SO4 and evaporated under vacuum. The crude contains a mixture of the title compound (bromoacetoxy-derivative) and an undesired compound (chloroacetoxy-derivative), in a cumulative amount of 550 mg. The compound undergoes the next step without any further purification. MS/ESI+ 541.17 [MH]+.

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 1.2 mmol, 500 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | 2-bromoacetyl chloride | 1.55 mmol, 243 mg | BrCC(=O)Cl | C2H2BrClO
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.8 mmol, 180 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-(2-(2-bromoacetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | BrCC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C20H18BrCl2F2NO5
